US06790854B2
(c) 1-(tert-Butoxycarbonyl)-4-(1H-benzimidazol-1-yl)Piperidine
1H-Benzimidazole (300 mg) was dissolved in N,N-dimethylformamide (6 ml), added with sodium hydride (60%, in oil, 122 mg) and stirred at room temperature for 1 hour. Subsequently, the reaction mixture was added with 1-(tert-butoxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine (1.08 g) and further stirred at room temperature for 23 hours and at 60° C. for 2 hours. The reaction mixture was added with water (10 ml) and extracted twice with ethyl acetate (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate) to obtain 192 mg of the title compound. Yield: 25%.

reactant | 1H-Benzimidazole | 300 mg | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 122 mg | [H-].[Na+]
reactant | 1-(tert-butoxycarbonyl)-4-(p-toluenesulfonyloxy)piperidine | 1.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-4-(1H-benzimidazol-1-yl)Piperidine | 192 mg, Yield: 25% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=NC2=C1C=CC=C2 | C17H23N3O2
